US06586475B1
4-(4-Biphenylylmethoxy)-N-(2-piperidinoethyl)benzamide
To a solution of 4-(4-biphenylylmethoxy)benzoic acid (1.008 g) in THF (20 ml)/acetonitrile (20 ml) were added WSC (0.775 g), HOBt (0.504 g), 1-(2-aminoethyl)piperidine (0.56 ml), and triethylamine (1.2 ml). After stirring at room temperature for 17 hr, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with 10% aqueous potassium carbonate and saturated aqueous sodium chloride sequentially, dried, and concentrated. The residue was recrystallized from ethyl acetate/diisopropyl ether to obtain the titled compound (0.993 g).

reactant | 4-(4-biphenylylmethoxy)benzoic acid | 1.008 g | C1(=CC=C(C=C1)COC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C20H16O3
reactant | WSC | 0.775 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.504 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(2-aminoethyl)piperidine | 0.56 ml | NCCN1CCCCC1 | C7H16N2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-(4-Biphenylylmethoxy)-N-(2-piperidinoethyl)benzamide | 0.993 g | C1(=CC=C(C=C1)COC1=CC=C(C(=O)NCCN2CCCCC2)C=C1)C1=CC=CC=C1 | C27H30N2O2
